US05459137
1-(4-Acetylaminophenyl)-3-acetyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine
1.3 g (4.4 mmol) of 1-(4-aminophenyl)-3-acetyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine were stirred at 20°-25° C. with 5 ml of acetic anhydride for one hour, then the yellow solution was poured into 100 g of ice-water and stirred until the decomposition of the excess anhydride became complete. The precipitate formed was filtered, washed with 3×10 ml of distilled water and dried to give 1.6 g of raw product. After recrystallization from 20 ml of benzene 1.50 g (89.85%) of the aimed product were obtained, m.p.: 158°-160° C. (decomp.).

reactant | 1-(4-aminophenyl)-3-acetyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 4.4 mmol, 1.3 g | NC1=CC=C(C=C1)C1=NN(C(CC2=C1C=C1C(=C2)OCO1)C)C(C)=O | C19H19N3O3
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(4-Acetylaminophenyl)-3-acetyl-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 1.6 g | C(C)(=O)NC1=CC=C(C=C1)C1=NN(C(CC2=C1C=C1C(=C2)OCO1)C)C(C)=O | C21H21N3O4
